US07192982B2
3-(3-Hydroxy-phenyl)-2-methoxy-propionic acid methyl ester
A solution of 3-(3-Benzyloxy-phenyl)-2-methoxy-propionic acid methyl ester in methanol was treated with a catalytic amount of C—Pd (0.1 eq) and then H2 was bubbled through the mixture and stirred overnight. The mixture reaction was concentrated and reconstituted in ethyl acetate, filtered through a pad of celite and concentrated in vacuo to give the title compound.

reactant | 3-(3-Benzyloxy-phenyl)-2-methoxy-propionic acid methyl ester | COC(C(CC1=CC(=CC=C1)OCC1=CC=CC=C1)OC)=O | C18H20O4
solvent | methanol | CO | CH4O
product | 3-(3-Hydroxy-phenyl)-2-methoxy-propionic acid methyl ester | COC(C(CC1=CC(=CC=C1)O)OC)=O | C11H14O4
